US06284756B1
Preparation of 6-Hydroxy-3-[4-[2-(1-pyrrolidinyl)ethoxy]-benzyl]-2-[4-(3-carboxypropyloxy)phenyl]benzo[b]thiophene Hydrochloride
By essentially following the procedure described below in Example 25, Part B, the title compound was prepared as a foam starting from 6-benzyloxy-2-(4-hydroxyphenyl)benzo[b]thiophene-3-yl 4-[2-(1-pyrrolidinyl)ethoxy]phenyl ketone (Part C) in 52% yield following MPLC (SiO2; 0.5% in CHCl3 sat'd with NH4OH).

reactant | 6-benzyloxy-2-(4-hydroxyphenyl)benzo[b]thiophene-3-yl 4-[2-(1-pyrrolidinyl)ethoxy]phenyl ketone | N1(CCCC1)CCOC1=CC=C(C=C1)C(=O)C=1C2=C(SC1C1=CC=C(C=C1)O)C=C(C=C2)OCC2=CC=CC=C2 | C34H31NO4S
reactant | NH4OH | [NH4+].[OH-]
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 6-Hydroxy-3-[4-[2-(1-pyrrolidinyl)ethoxy]-benzyl]-2-[4-(3-carboxypropyloxy)phenyl]benzo[b]thiophene Hydrochloride | 52% yield | Cl.OC=1C=CC2=C(SC(=C2CC2=CC=C(C=C2)OCCN2CCCC2)C2=CC=C(C=C2)OCCCC(=O)O)C1 | InChI=1S/C31H33NO5S.ClH/c33-24-9-14-27-28(20-22-5-10-25(11-6-22)37-19-17-32-15-1-2-16-32)31(38-29(27)21-24)23-7-12-26(13-8-23)36-18-3-4-30(34)35;/h5-14,21,33H,1-4,15-20H2,(H,34,35);1H
